US07547710B2
A suspension of 6-hydroxy-4-phenyl-2-propylquinoline-3-carbonitrile (0.98 g, 3.4 mmol), chloroacetamide (0.36 g, 3.8 mmol) and potassium carbonate (0.55 g, 4.0 mmol) in N,N-dimethylformamide (10 ml) was stirred at 60° C. for 18 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 2-[(3-cyano-4-phenyl-2-propylquinolin-6-yl)oxy]acetamide (1.0 g, yield 88%) as pale-yellow crystals.

reactant | 6-hydroxy-4-phenyl-2-propylquinoline-3-carbonitrile | 3.4 mmol, 0.98 g | OC=1C=C2C(=C(C(=NC2=CC1)CCC)C#N)C1=CC=CC=C1 | C19H16N2O
reactant | chloroacetamide | 3.8 mmol, 0.36 g | ClCC(=O)N | C2H4ClNO
reactant | potassium carbonate | 4.0 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[(3-cyano-4-phenyl-2-propylquinolin-6-yl)oxy]acetamide | 1.0 g, yield 88% | C(#N)C=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)OCC(=O)N)CCC | C21H19N3O2
